US06140501
2 g (0.0066 mol) of tert-butyl 4-(2-methoxycarbonylmethoxyethyl)piperazine-1-carboxylate prepared in Example I.4.3. are dissolved in 5 ml of ethyl acetate in a 50 ml three-necked round-bottomed flask fitted with a water-cooled condenser and a mechanical stirrer. 20 ml of a 3M solution of hydrochloric acid in ethyl acetate are added in a single portion with stirring. The mixture is stirred at room temperature for 30 minutes. 5 ml of a 3M solution of hydrochloric acid in ethyl acetate are then added and stirring is continued for 30 minutes. The precipitate is filtered off and is washed with 2×5 ml of ethyl acetate. 1.68 g (92%) of methyl 2-(1-piperazinyl)ethoxyacetate dihydrochloride are obtained in the form of a beige-colored solid.

reactant | tert-butyl 4-(2-methoxycarbonylmethoxyethyl)piperazine-1-carboxylate | 0.0066 mol, 2 g | COC(=O)COCCN1CCN(CC1)C(=O)OC(C)(C)C | C14H26N2O5
reactant | water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | methyl 2-(1-piperazinyl)ethoxyacetate dihydrochloride | 1.68 g, 92% | Cl.Cl.N1(CCNCC1)CCOCC(=O)OC | InChI=1S/C9H18N2O3.2ClH/c1-13-9(12)8-14-7-6-11-4-2-10-3-5-11;;/h10H,2-8H2,1H3;2*1H
